US09108952B2
To a solution of methylpyridine-3-carbodithioate (2.97 g, 17.52 mmol) in methanol (10 mL) was added a solution of 2-amino-N-cyclopropylacetamide (2 g, 17.52 mmol) (HCl salt) and triethylamine (3.55 g, 35.0 mmol). The mixture was stirred at room temperature for 1 hour and then diluted with ethyl acetate and washed with saturated aqueous NaHCO3, brine, dried over MgSO4, filtered, and concentrated in vacuo to give N-cyclopropyl-2-(pyridine-3-carbothioamido)acetamide as a yellow solid (3.60 g, 83%): mp 152-153° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.60 (s, 1H), 8.91 (ddd, J=7.0, 2.3, 0.7 Hz, 1H), 8.76-8.56 (m, 1H), 8.10 (m, 2H), 7.57-7.32 (m, 1H), 4.26 (m, 2H), 2.73-2.57 (m, 1H), 0.77-0.61 (m, 2H), 0.50-0.29 (m, 2H); ESIMS (m/z) 234 ([M−H]−).

reactant | methylpyridine-3-carbodithioate | 17.52 mmol, 2.97 g | CSC(=S)C=1C=NC=CC1 | C7H7NS2
reactant | 2-amino-N-cyclopropylacetamide | 17.52 mmol, 2 g | NCC(=O)NC1CC1 | C5H10N2O
reactant | triethylamine | 35.0 mmol, 3.55 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclopropyl-2-(pyridine-3-carbothioamido)acetamide | 3.60 g, 83% | C1(CC1)NC(CNC(=S)C=1C=NC=CC1)=O | C11H13N3OS
